US08487108B2
Step 3. (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate
Upon cooling a solution of (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(5-chloropentanamido)propan-2-ylcarbamate (500 mg, 1.18 mmol) in DMF (10 mL) to 0° C., NaH (52 mg, 1.30 mmol) was added. The reaction mixture was stirred for 4 h. The mixture was taken up in EtOAc, washed with saturated NaCl solution, dried over Na2SO4, concentrated under reduced pressure and the crude (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate was used in next step without purification (370 mg, 81%). 1H NMR (CDCl3, 300 MHz) δ 5.25 (d, 1H), 4.04-3.81 (m, 2H), 3.67-3.20 (m, 4H), 2.36 (m, 2H), 1.78 (m, 4H), 1.41 (s, 9H), 0.88 (s, 9H), 0.0 (s, 6H).

reactant | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(5-chloropentanamido)propan-2-ylcarbamate | 1.18 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(CCCCCl)=O)NC(OC(C)(C)C)=O | C19H39ClN2O4Si
reactant | NaH | 1.30 mmol, 52 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)OC[C@H](CN1C(CCCC1)=O)NC(OC(C)(C)C)=O | C19H38N2O4Si
